US09169259B2
A mixture of 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (500 mg, 1.52 mmol), 3-(hydroxymethyl)phenylboronic acid (350 mg, 2.28 mmol), Pd2dba3 (100 mg, 0.15 mmol), X-phos (300 mg, 0.61 mmol) and K2CO3 (625 mg, 4.56 mmol) was dissolved in dioxane/water (50 mL/5 mL). The reaction mixture was degassed with bubbling nitrogen for 5 minutes then heated at 100° C. with stirring for 3 h, the solvent removed in vacuo, The residue purified by chromatography (silica gel, 200-300 mesh, dichloromethane/methanol=40:1) to give (3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenyl)methanol (300 mg, 81%) as a white solid. 1H NMR (300 MHz, DMSO): δ 9.62 (s, 1H), 8.77 (s, 1H), 8.19 (s, 1H), 7.88 (s, 1H), 7.81-7.78 (m, 1H), 7.63 (s, 1H), 7.49-7.39 (m, 3H), 6.71 (d, 1H, J=7.8 Hz), 6.05 (d, 1H, J=7.8 Hz), 5.31 (t, 1H, J=5.7 Hz), 4.59 (d, 2H, J=5.7 Hz), 4.25-4.20 (m, 1H), 3.58-3.50 (m, 1H), 3.42-3.38 (m, 1H), 2.08-1.97 (m, 3H), 1.70 (brs, 1H), 1.11 (d, 3H, J=6.3 Hz). LC-MS: [M+H]+, 401, tR=1.679 min, HPLC: 99.87% at 214 nm, 99.85% at 254 nm, tR=5.87 min.

reactant | 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 1.52 mmol, 500 mg | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C16H17ClN6
reactant | 3-(hydroxymethyl)phenylboronic acid | 2.28 mmol, 350 mg | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | X-phos | 0.61 mmol, 300 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | K2CO3 | 4.56 mmol, 625 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane water | 50 mL | O1CCOCC1.O
catalyst | Pd2dba3 | 0.15 mmol, 100 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenyl)methanol | 300 mg, 81% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C=CC1)CO)C=CN2 | C23H24N6O
